US05281608
4-(3-Chloro-8,9,10,11-tetrahydro-7H-pyrido[3',4':4,5]-pyrrolo[3,2-c]quinolin-8-yl)benzoic acid ethyl ester
A mixture of 1.5 g (5.8 mmol) of 3-chloro-8,9,10,11-tetrahydro-7H-pyrido[3',4':4,5]pyrrolo[3,2-c]quinoline, 0.979 g (5.8 mmol) of ethyl 4-fluorobenzoate, 0.68 g (5.8 mmol) of 4-methylmorpholine N-oxide, 3.78 g (11.6 mmol) of Cs2CO3 and 10 ml of dimethylsulfoxide is stirred overnight at 80° C. The reaction mixture is allowed to cool and is diluted with water to yield a brown precipitate which is collected by filtration and dried. The crude product is purified by flash column chromatography (5% methanol in chloroform) to yield 0.055 g (2%) of the title compound as a yellow solid: m.p. 241°-243° C.; m/e 405.

reactant | 3-chloro-8,9,10,11-tetrahydro-7H-pyrido[3',4':4,5]pyrrolo[3,2-c]quinoline | 5.8 mmol, 1.5 g | ClC1=CC=C2C3=C(C=NC2=C1)C1=C(N3)CCNC1 | C14H12ClN3
reactant | ethyl 4-fluorobenzoate | 5.8 mmol, 0.979 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | 4-methylmorpholine N-oxide | 5.8 mmol, 0.68 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Cs2CO3 | 11.6 mmol, 3.78 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | water | O | H2O
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 4-(3-Chloro-8,9,10,11-tetrahydro-7H-pyrido[3',4':4,5]-pyrrolo[3,2-c]quinolin-8-yl)benzoic acid ethyl ester | 0.055 g, 2% | C(C)OC(C1=CC=C(C=C1)N1CC2=C(NC3=C2C=NC2=CC(=CC=C32)Cl)CC1)=O | C23H20ClN3O2
